US07417062B2
Step 3: 3-(Biphenyl-3-ylamino)-1-(2-methyl-piperidin-1-yl)-propan-1-one.
To a mixture of the 3-(biphenyl-3-ylamino)-propionic acid 1.6 g (6.6 mmol), 2-methylpiperidine 0.78 g (7.9 mmol), was added the solid O-(benzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate 4.7 g (1.3 mmol), and triethylamine 3.86 mL (27 mmol) in 25 mL of dichloromethane and left overnight at room temperature. The reaction mixture was washed with water, the organic layer, dried over magnesium sulfate, filtered, and concentrated under vacuum. The compound was purified using silica gel chromatography and was eluted with ethyl acetate, yield to 2 g material.

reactant | 3-(biphenyl-3-ylamino)-propionic acid | 6.6 mmol, 1.6 g | C1(=CC(=CC=C1)NCCC(=O)O)C1=CC=CC=C1 | C15H15NO2
reactant | 2-methylpiperidine | 7.9 mmol, 0.78 g | CC1NCCCC1 | C6H13N
reactant | O-(benzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 1.3 mmol, 4.7 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 27 mmol, 3.86 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-(Biphenyl-3-ylamino)-1-(2-methyl-piperidin-1-yl)-propan-1-one | 2 g | C1(=CC(=CC=C1)NCCC(=O)N1C(CCCC1)C)C1=CC=CC=C1 | C21H26N2O
